US04737505
9 g of magnesium and 24.2 g of N-benzyl-4-chloro-indole were reacted as in stage A of Example 1 of French Patent No. 2,458,549 to form the magnesium derivative of N-benzyl-4-chloro-indol. A solution of 17.7 g of N-benzyl-4-piperidinone in 40 ml of tetrahydrofuran were introduced into the acid solution at 30° C. while keeping the temperature below 40° C. The mixture was refluxed for 2 hours and then was cooled to 10° C. after which an aqueous saturated ammonium chloride solution was added thereto. The mixture was filtered to remove excess magnesium and the filtrate was extracted with ethyl acetate. The organic phase was washed with aqueous sodium hydroxide, was dried and evaporated to dryness under reduced pressure. The 42 g of brown oil residue were dissolved in 400 ml of ethyl acetate and a saturated solution of hydrogen chloride in ethyl acetate was added thereto. The mixture was filtered and the product was dried under reduced pressure and crystallized from an isopropanol-methanol mixture to obtain 17.3 g of 1-benzyl-4-[1-benzyl-1H-indole-4 -yl]-4-piperidinol hydrochloride with a melting point of 270° C. The free base was obtained by treatment of the salt with sodium hydroxide, extraction with ethyl acetate and evaporation of the organic phase.

reactant | N-benzyl-4-piperidinone | 17.7 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-[1-benzyl-1H-indole-4 -yl]-4-piperidinol hydrochloride | 17.3 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C2C=CN(C2=CC=C1)CC1=CC=CC=C1 | InChI=1S/C27H28N2O.ClH/c30-27(15-18-28(19-16-27)20-22-8-3-1-4-9-22)25-12-7-13-26-24(25)14-17-29(26)21-23-10-5-2-6-11-23;/h1-14,17,30H,15-16,18-21H2;1H
